### PR TITLE
Prove continuousAt_iff lemma for CumulativeDistributionFunction

### LINKED ISSUE #11: CumulativeDistributionFunction.continuousAt_iff
Prove `CumulativeDistributionFunction.continuousAt_iff`.

### PR DESCRIPTION
**Pull request by Lieska2**
close #11

### CODE REVIEW

File: ExtremeValueProject/CumulativeDistributionFunction.lean [hunk 1]
```diff
@@ -167,7 +167,26 @@ lemma continuousAt_iff (F : CumulativeDistributionFunction) (x : ℝ) :
...
   rw [StieltjesFunction.measure_singleton]
   rw [Monotone.continuousAt_iff_leftLim_eq_rightLim F.mono']
-  sorry -- **Issue #11**
+
+  -- Rewrite function value in place of right limit
+  rw [StieltjesFunction.rightLim_eq]
+  constructor
+  · intro h
+    rw [h]
+    simp
```
Comment (kkytola) [inline ExtremeValueProject/CumulativeDistributionFunction.lean:176]:
```suggestion
    simp [h]
```

File: ExtremeValueProject/CumulativeDistributionFunction.lean [hunk 2]
```diff
@@ -167,7 +167,26 @@ lemma continuousAt_iff (F : CumulativeDistributionFunction) (x : ℝ) :
...
+  · intro h
+    -- We need to show: leftLim F x = F x
+    -- We know: ofReal (F x - leftLim F x) = 0
+    have h_le : Function.leftLim F x ≤ F x := by
+      rw [← StieltjesFunction.rightLim_eq]
+      exact Monotone.leftLim_le_rightLim F.mono' (by linarith)
+
+    have h_nonneg : 0 ≤ F x - Function.leftLim F x := sub_nonneg.mpr h_le
```
Comment (kkytola) [inline ExtremeValueProject/CumulativeDistributionFunction.lean:184]:
```suggestion
    have h_nonneg : 0 ≤ F x - Function.leftLim F x := by
      apply sub_nonneg.mpr
      simpa [← StieltjesFunction.rightLim_eq] using F.mono'.leftLim_le_rightLim (by linarith)
```

**Comment by kkytola** [comment]
Thank you!

Your proof is very clearly structured. I just left small suggestions about which parts can in my opinion be slightly shortened without sacrificing any clarity or informative structure of the proof. (Potentially conciseness can even improve clarity when the steps are in principle clear and clearly laid out like in your proof).
